US03931202
To a solution of 2.5 g. (0.023 mole) of 3-pyridylcarbinol in 50 ml. of benzene containing 0.1 g. of Dabco catalyst (1,4-diazabicyclo [2,2,2] octane) was added, dropwise, a solution of 43 g. (0.023 mole) of p-trifluoromethyl-phenyl isocyanate in 50 ml. of benzene. A temperature rise from 23° to 35° was noted during the addition, and a white precipitate formed. After stirring for 1 hr., the mixture was filtered, and the solid product was air-dried. There was obtained 6.3 g. (93% of theory) of product; melting point 173° - 175° C. (decomposed). This is a 93% yield of 3-pyridylmethyl N-(4'-trifluoromethylphenyl)-carbamate.

reactant | 3-pyridylcarbinol | 0.023 mole | N1=CC(=CC=C1)CO | C6H7NO
reactant | p-trifluoromethyl-phenyl isocyanate | 0.023 mole | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
catalyst | Dabco | C1CN2CCN1CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 0.1 g | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-(4'-trifluoromethylphenyl)-carbamate | 93% yield | FC(C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O)(F)F | C14H11F3N2O2
